US07618978B2
7-Methoxymethyl-2-(1-phenylethyl)-2-azabicyclo[2.2.1]hept-5-ene-3-carboxylic acid ethyl ester
Add molecular sieves (3 Å, 12.0 g), (S)-(−)-α-methylbenzylamine (6.4 mL, 50.0 mmol) to a solution of ethylglyoxalate (10.3 mL, 50.0 mmol) in dichloromethane (200 mL) cooled in an ice bath. Stir the mixture at 0° C. for 2 h, and then cool to −78° C. Add trifluoroacetic acid (4.10 mL, 55.0 mmol), boron trifluoride etherate (6.90 mL, 55.0 mmol), and 5-methoxymethyl-1,3-cyclopentadiene (60.0 mmol, prepared in situ by adding cyclopentadienylsodium (2.0 M in THF, 30.0 mL, 60.0 mmol) to a solution of chloromethyl methyl ether (5.70 mL, 75.0 mmol) in tetrahydrofuran (30 mL) at −55° C.) with a 5 min interval between each addition. Stir for 2 h at −78° C. and refrigerate (−20° C.) overnight. Quench the reaction with saturated aqueous sodium bicarbonate solution (200 mL) and stir the mixture vigorously for 15 min. Separate the layers, dry the organic layer (magnesium sulfate), concentrate, and purify (silica gel chromatography 10:90 to 30:70 ethyl acetate:hexanes) to give the title compound (3.95 g, 25%).

reactant | (S)-(−)-α-methylbenzylamine | 50.0 mmol, 6.4 mL | C[C@@H](C1=CC=CC=C1)N | C8H11N
reactant | ethylglyoxalate | 50.0 mmol, 10.3 mL | C(C)C(C(=O)[O-])=O
reactant | trifluoroacetic acid | 55.0 mmol, 4.10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | boron trifluoride etherate | 55.0 mmol, 6.90 mL | B(F)(F)F.CCOCC
reactant | 5-methoxymethyl-1,3-cyclopentadiene | COCC1C=CC=C1 | C7H10O
reactant | cyclopentadienylsodium | 60.0 mmol, 2.0 M, 30.0 mL | C1(C=CC=C1)[Na]
reactant | chloromethyl methyl ether | 75.0 mmol, 5.70 mL | COCCl | C2H5ClO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 7-Methoxymethyl-2-(1-phenylethyl)-2-azabicyclo[2.2.1]hept-5-ene-3-carboxylic acid ethyl ester | 3.95 g, 25% | C(C)OC(=O)C1N(C2C=CC1C2COC)C(C)C2=CC=CC=C2 | C19H25NO3
